US07163939B2
2-(2,5-dimethoxyphenyl)-1H-isoindole-1,3 (2 H)-dione
2,5-dimethoxyaniline (9.96 g, 65.00 mmol) and phthalic anhydride (10.11 g, 68.25 mmol) were mixed, and heated at 185° C. for 15 minutes under N2. After the reaction mixture was cooled, acetone (50 mL) was added. The precipitate was ultrasonicated, filtered, washed with ethyl acetate (10 mL×2), and dried to give the title compound (17.5 g, 95%). MS (ESI) m/z 283.91 (M+H)+; 1H NMR (300 MHz, CDCl3) δ ppm 3.75 (s, 3 H) 3.79 (s, 3 H) 6.83 (t, J=1.70 Hz, 1 H) 6.98 (d, J=1.70 Hz, 2 H) 7.74–7.81 (m, 2 H) 7.91–7.98 (m, 2 H).

reactant | 2,5-dimethoxyaniline | 65.00 mmol, 9.96 g | COC1=C(N)C=C(C=C1)OC | C8H11NO2
reactant | phthalic anhydride | 68.25 mmol, 10.11 g | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
solvent | acetone | 50 mL | CC(=O)C | C3H6O
product | 2-(2,5-dimethoxyphenyl)-1H-isoindole-1,3 (2 H)-dione | 17.5 g, 95% | COC1=C(C=C(C=C1)OC)N1C(C2=CC=CC=C2C1=O)=O | C16H13NO4
